US07514461B2
8-Chloro-2-(2,5-dimethyl-thiophen-3-yl)-2,5,7-trimethyl-chroman-6-ol
To a solution of 2-chloro-3,5-dimethyl-benzene-1,4-diol (520 mg) and BF3 etherate (1.28 g) in dioxane (10 mL) at 120° C. was added slowly a solution of the vinyl alcohol 2-(2,5-dimethyl-thiophen-3-yl)-but-3-en-2-ol (600 mg) in 2 mL of dioxane in 30 min. After completion, the solution was stirred at 120° C. for 3 h. Workup and purification by silica gel column chromatography eluting with 10% EtOAc in hexane gave 50 mg off-white solid 4-Chloro-6-(2,5-dimethyl-thiophen-3-yl)-1,3,6-trimethyl-5,6,7,8-tetrahydro-naphthalen-2-ol. 1H NMR (300 MHz, CDCl3) 8:6.52 (s, 1H), 4.29 (s, 1H, OH), 2.63-2.33 (3s+m, 12H), 2.06-2.01 (s+m, 4H), 1.62 (s, 3H) ppm. 13C NMR (75 MHz, CDCl3 δ:145.40, 143.98, 139.90, 134.97, 132.28, 125.68, 121.24, 120.34, 119.97, 119.57, 78.05, 32.85, 28.52, 21.74, 15.49, 14.96, 13.49, 11.77 ppm. MS m/z: 337 (M+H+).

reactant | 2-chloro-3,5-dimethyl-benzene-1,4-diol | 520 mg | ClC1=C(C=C(C(=C1C)O)C)O | C8H9ClO2
reactant | BF3 | 1.28 g | B(F)(F)F | BF3
reactant | vinyl alcohol 2-(2,5-dimethyl-thiophen-3-yl)-but-3-en-2-ol | 600 mg | CC=1SC(=CC1C(C)(C=C)O)C.C(=C)O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 8-Chloro-2-(2,5-dimethyl-thiophen-3-yl)-2,5,7-trimethyl-chroman-6-ol | 50 mg | ClC=1C(=C(C(=C2CCC(OC12)(C)C1=C(SC(=C1)C)C)C)O)C | C18H21ClO2S
